US07807671B2
To a stirred solution of formamidine acetate (2.8 g) in triethylamine (6 ml) in a sealed tube, was added tert-butyl 4-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)piperazine-1-carboxylate (1.0 g) and the reaction mixture was heated at 140° C. for 6 h. The reaction mixture was brought to room temperature and triethylamine was removed under reduced pressure. Water (10 ml) was added to the residue and the organic compound was extracted into ethylacetate (4×20 ml). Combined organic layers were dried (Na2SO4) and concentrated. The crude material was purified by column chromatography using methanol/chloroform (1:9) to give tert-butyl 4-(4-phenylpyrimidin-5-yl)piperazine-1-carboxylate.

reactant | formamidine acetate | 2.8 g | C(C)(=O)O.C(=N)N
reactant | tert-butyl 4-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)piperazine-1-carboxylate | 1.0 g | CN(C=C(C(C1=CC=CC=C1)=O)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H29N3O3
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl 4-(4-phenylpyrimidin-5-yl)piperazine-1-carboxylate | C1(=CC=CC=C1)C1=NC=NC=C1N1CCN(CC1)C(=O)OC(C)(C)C | C19H24N4O2
